US04101667
0.9g of 9-cyano-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin and 1g of 100% hydrazine hydrate were dissolved in 10ml of ethanol and the resulting mixture was heated under reflux for 3.5 hours. The reaction mixutre was concentrated to 5ml to separate crystals on cooling, which were collected by filtration. Recrystallization from ethanol afforded 0.6g of 9-cyano-10,11-dihydro-11-oxo-dibenzo-[b,f]thiepin hydrazone as pale brown prismatic crystals having a melting point of 175°-177° C.

reactant | 9-cyano-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin | 0.9g | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=CC=C1)=O | C15H9NOS
reactant | hydrazine hydrate | O.NN
solvent | ethanol | 10ml | C(C)O | C2H6O
product | 9-cyano-10,11-dihydro-11-oxo-dibenzo-[b,f]thiepin hydrazone | 0.6g | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=CC=C1)=NN | C15H11N3S
